US07763639B2
1-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERAZINE
Preparation according to preparation 29: methyl 4-[2-fluoro-3-(methylsulfonyl)phenyl]piperazine-1-carboxylate (1.0 g, 3.16 mmol) in ethanol (8 ml), hydrochloric acid (6 M, 20 ml). Yield: 0.34 g. MS m/z (rel. intensity, 70 eV) 258 (M+, 17), 215 (13), 216 (bp), 209 (6), 137 (9).

reactant | methyl 4-[2-fluoro-3-(methylsulfonyl)phenyl]piperazine-1-carboxylate | 3.16 mmol, 1.0 g | FC1=C(C=CC=C1S(=O)(=O)C)N1CCN(CC1)C(=O)OC | C13H17FN2O4S
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 6 M, 20 ml | Cl | ClH
product | 1-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERAZINE | FC1=C(C=CC=C1S(=O)(=O)C)N1CCNCC1 | C11H15FN2O2S
